US09326987B2
1,1-Dimethylethyl 4-({[6-(1H-indol-4-yl)-1H-indazol-4-yl]amino}carbonyl)-3-methyl-1H-pyrazole-1-carboxylate
To a solution of HATU (0.162 g) in anhydrous DMF (4 ml) was added 1-{[(1,1-dimethylethyl)oxy]carbonyl}-3-methyl-1H-pyrazole-4-carboxylic acid (0.097 g) and DIPEA (0.149 ml) and the mixture was left to stand for 10 min. 6-(1H-Indol-4-yl)-1H-indazol-4-amine (0.053 gl) dissolved in anhydrous DMF (3 ml) was added and the solution was left to stand at RT for 18 h. The DMF was blown down to dryness under a stream of nitrogen and the residue was dissolved in DMSO:methanol (1 ml, 1:1) and purified by MDAP (method K). The solvent was removed in vacuo to give title compound, 6 mg.

reactant | HATU | 0.162 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 1-{[(1,1-dimethylethyl)oxy]carbonyl}-3-methyl-1H-pyrazole-4-carboxylic acid | 0.097 g | CC(C)(C)OC(=O)N1N=C(C(=C1)C(=O)O)C | C10H14N2O4
reactant | DIPEA | 0.149 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | 6-(1H-Indol-4-yl)-1H-indazol-4-amine | N1C=CC2=C(C=CC=C12)C=1C=C(C=2C=NNC2C1)N | C15H12N4
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
solvent | DMSO | CS(=O)C | C2H6OS
product | 1,1-Dimethylethyl 4-({[6-(1H-indol-4-yl)-1H-indazol-4-yl]amino}carbonyl)-3-methyl-1H-pyrazole-1-carboxylate | N1C=CC2=C(C=CC=C12)C1=CC(=C2C=NNC2=C1)NC(=O)C=1C(=NN(C1)C(=O)OC(C)(C)C)C | C25H24N6O3
